US07714010B2
b) 5-Allyl-2-(4-methoxy-phenyl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
A solution of N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)4-methoxy-benzamide (200 mg), allyl bromide (78 mg; 0.65 mmol) and K2CO3 (233 mg; 1.69 mmol) in acetone (3.2 ml) and N,N-dimethylformamide (1.6 ml) is stirred at 50° C. for 48 h. The mixture is filtered and concentrated in vacuo. The residue is suspended in acetic acid (3 ml), iron (150 mg; powder) is added and the resulting mixture is heated in a microwave apparatus at 150° C. for 900 s. After re-cooling the mixture is filtered and concentrated in vacuo. The desired compound is obtained by preparative RP-HPLC.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)4-methoxy-benzamide | 200 mg | CC1(C(NC2=CC(=C(C=C12)NC(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])=O)C | C18H17N3O5
reactant | allyl bromide | 0.65 mmol, 78 mg | C(C=C)Br | C3H5Br
reactant | K2CO3 | 1.69 mmol, 233 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 3.2 ml | CC(=O)C | C3H6O
solvent | N,N-dimethylformamide | 1.6 ml | CN(C=O)C | C3H7NO
product | 5-Allyl-2-(4-methoxy-phenyl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | C(C=C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=CC=C(C=C3)OC)(C)C)=O | C21H21N3O2
